US04532248
0.1 mol of 2-amino-1-nitro-prop-1-ene and 0.1 mol of 2-chloro-1-(3-nitrophenyl)-but-1-ene-3-one were heated in boiling ethanol, analogously to Example 18. 3-Chloro-1,4-dihydro-2,6-dimethyl-5-nitro-4-(3-nitrophenyl)pyridine of melting point 198° C. (decomposition) was obtained. Yield:

reactant | 2-amino-1-nitro-prop-1-ene | 0.1 mol | NC(=C[N+](=O)[O-])C | C3H6N2O2
reactant | 2-chloro-1-(3-nitrophenyl)-but-1-ene-3-one | 0.1 mol | ClC(=CC1=CC(=CC=C1)[N+](=O)[O-])C(C)=O | C10H8ClNO3
solvent | ethanol | C(C)O | C2H6O
product | 3-Chloro-1,4-dihydro-2,6-dimethyl-5-nitro-4-(3-nitrophenyl)pyridine | ClC1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])[N+](=O)[O-])C)C | C13H12ClN3O4
